US08648068B2
65.4 (S)-5-methyl-4-(2-(piperidin-3-yloxy)-4-(trifluoromethyl)phenylamino)thieno[2,3-d]pyrimidine-6-carboxamide
4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-trifluoromethyl-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide (77 mg) was dissolved in dichloromethane (1 ml) and HCl in dioxan (4M; 1.5 ml) was added. The reaction was stirred at room temperature for 1 h. The solvent was removed in vacuo and the residue was purfied by chromatography to give the inteded product.

reactant | 4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-trifluoromethyl-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | 77 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)C(F)(F)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C25H28F3N5O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dioxan | 4M, 1.5 ml | O1CCOCC1 | C4H8O2
product | (S)-5-methyl-4-(2-(piperidin-3-yloxy)-4-(trifluoromethyl)phenylamino)thieno[2,3-d]pyrimidine-6-carboxamide | CC1=C(SC=2N=CN=C(C21)NC2=C(C=C(C=C2)C(F)(F)F)O[C@@H]2CNCCC2)C(=O)N | C20H20F3N5O2S
